Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Influenza Virus Vaccines
 
Attending: ___.
 
Chief Complaint:
Low platelets
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with hx of obesity, NASH, tobacco use presenting with low 
platelet count. 

History is obtained from pt, who is a paramedic and able to 
recount medical history in detail, as well as ___ records 
obtained overnight.

He reports that, "several" years ago, he had routine blood work 
which revealed modest thrombocytopenia - he believes 132k. He 
was sent to a hematologist who raised the possibility of ITP, 
but given modest thrombocytopenia, was not treated. Three weeks 
prior to presentation, pt noted petechiae on the dorsal aspect 
of bilateral feet extending proximally to lateral aspect of 
distal LEs. Labs were checked by PCP, and platelets were 
reportedly 6k.

He was directed to the ___ ED on ___, where platelet 
counts were 3k. He reportedly received 1u of platelets and 40 mg 
of dexamethasone. He was discharged with platelets of 24k on 
___. He received a total of 4 days of dexamethasone 40 mg - 
he is certain about this dose, is an EMT and recalls 10 x 4 mg
tablets per day. He completed that course, and on ___ had 
follow up blood work, with platelets 167k. He had a follow up 
apt with hematogist, Dr. ___ at ___ 
___ in ___, on ___, at which time his 
platelets were 27k. Pt reports that dexamethasone was "awful," 
with associated anorexia, polyuria, myalgias, stiffness, 
palpations, anxiety, insomnia. He declined to resume 
dexamethasone given these symptoms. He was started on prednisone 
60 mg, took first dose in the office, and another dose ___.

The plan was to continue 60 mg with close follow up. On ___, 
he worked as EMT overnight, then went for breakfast, took pills, 
went to bathroom, and noted strong ammonia smell. He developed L 
flank pain, pressure, ___, constant, without associated 
dysuria.

He then developed sharp, stabbing pain at LUQ, intermittent, 
lasting 1 minute, then self-resolved. Presented to ___ ED, 
with platelets 16k. Pt requested transfer to ___ for higher 
level of care.  A CT abdomen/pelvis reportedly did not show any 
acute findings.

Review of records from ___ confirms above 
story, and adds that Wellbutrin was a new medication as of 
___.  Hematology just apparently advised discontinuation 
of Wellbutrin until platelet count stabilizes to avoid 
complicating the clinical picture.

He notes that he always bruises easily, most recently on his R 
shoulder after going to the gun range. He has not noticed 
mucosal bleeding with brushing his teeth. He describes joint 
pains, hot flashes, anxiety, palpitations all of which started 
after initiation glucocorticoids. He recalls that he had more 
bleeding than is typically expected when he had his RLE tattoo 
placed.

Denies hematuria, melena, hematochezia, rashes aside from 
petechiae.

In the ___ ED:
Vital signs 98.3, 88, 110/62, 96% on room air
Exam notable for tenderness to palpation at the left upper 
quadrant
Labs notable for WBC 12.4, hemoglobin 14.6, platelets 17
Creatinine 0.9, ALT 92, AST 36, alk phos 49, LDH 221, T bili 
0.6,
INR 1.0, PTT 26.0, haptoglobin 138, fibrinogen 344, vertex 2.0,
lactate 1.2
UA within normal limits

Case reviewed with hematology fellow on-call, who recommended 
admission for inpatient IVIG, and weight-based dosing of 
prednisone.  Dosing confirmed at prednisone 140 mg, IVIG 140 g 
for body weight 140 kg.

Received oxycodone 5 mg, IV fluids, prednisone 140 mg p.o.

On arrival to the floor, back pain is ___, intermittent sharp 
LUQ pain without clear trigger.  He endorses palpitations, 
headache, insomnia related to steroids.

ROS: 10 point review of system reviewed and negative except as 
otherwise described in HPI
 
Past Medical History:
___
Hiatal hernia as a child
S/p wisdom tooth extraction
 
Social History:
___
Family History:
Pateral first cousin with ITP. Paternal great grandfather 
apparently had ITP. DM2, htn, CAD on father's side. Mother's 
side with breast cancer.

 
Physical Exam:
Admission Exam:
VS: 98.1 PO 138 / 80 79 18 98 ra 
GEN: Obese, alert and interactive, comfortable, no acute 
distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without 
lesion or exudate, moist mucus membranes, no mucosal petechiae
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or gallops
LUNGS: clear to auscultation bilaterally without rhonchi, 
wheezes, or crackles
GI: soft, tenderness to palpation at left upper quadrant, 
obesity, without rebounding or guarding, nondistended with 
normal active bowel sounds, no hepatomegaly appreciated, no 
splenomegaly appreciated
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, lesions, or echymoses; warm to palpation.  Few 
petechiae overlying lumbar spine.  Evolving petechiae at lateral 
dorsal aspect of bilateral feet extending proximally towards 
lateral malleoli.  Ecchymoses at anterior right shoulder with 
few scattered petechiae superior to ecchymoses. Tattoos at L 
forearm and R LUE.
NEURO: Grossly intact
PSYCH: normal mood and affect

Discharge Exam:
VITALS: Reviewed in POE. AFVSS.  
GENERAL: Alert, uncomfortable
HEENT: Anicteric, PERRL, EOMI, MMM, tongue midline, face 
symmetric
NECK: neck supple
CV: RRR, no m/r/g
RESP: CTAB, breathing comfortably
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.
MSK: No ___ edema or calf tenderness
SKIN: Few petechial lesions on dorsum of feet bilaterally, 
stable per pt
NEURO: Face symmetric, gaze conjugate with EOMI, speech fluent, 
___ strength in all 4 extremities
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 10:39PM BLOOD WBC-12.4* RBC-5.09 Hgb-14.6 Hct-42.6 
MCV-84 MCH-28.7 MCHC-34.3 RDW-13.0 RDWSD-39.5 Plt Ct-17*
___ 10:39PM BLOOD Neuts-70.5 ___ Monos-7.2 Eos-0.2* 
Baso-0.2 Im ___ AbsNeut-8.75* AbsLymp-2.64 AbsMono-0.90* 
AbsEos-0.03* AbsBaso-0.02
___ 10:03PM BLOOD ___ PTT-26.0 ___
___ 10:03PM BLOOD Glucose-97 UreaN-15 Creat-0.9 Na-141 
K-4.0 Cl-101 HCO3-23 AnGap-17
___ 10:03PM BLOOD ALT-92* AST-36 LD(LDH)-221 AlkPhos-49 
TotBili-0.6
___ 10:03PM BLOOD Lipase-24
___ 10:03PM BLOOD Albumin-4.1 Calcium-8.8 Phos-3.5 Mg-2.4

OTHER PERTINENT LABS:
___ 10:03PM BLOOD ___ 10:39PM BLOOD Ret Aut-2.0 Abs Ret-0.10
___ 10:03PM BLOOD Hapto-138
___ 06:40AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 06:40AM BLOOD HIV Ab-NEG
___ 06:40AM BLOOD HIV Ab-NEG
___ 06:40AM BLOOD HCV Ab-NEG
___ 10:15PM BLOOD Lactate-1.2
___ 06:40AM BLOOD VARICELLA ZOSTER VIRUS DNA, PCR-Not 
Detected 

DISCHARGE LABS:     
___ 06:53AM BLOOD WBC-8.5 RBC-5.18 Hgb-14.9 Hct-44.1 MCV-85 
MCH-28.8 MCHC-33.8 RDW-12.6 RDWSD-38.3 Plt Ct-85*#
___ 06:53AM BLOOD Glucose-100 UreaN-14 Creat-1.2 Na-138 
K-4.3 Cl-99 HCO3-30 AnGap-9*
___ 10:05PM URINE Color-Straw Appear-Clear Sp ___
___ 10:05PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 

CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 

HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

URINE CULTURE (Final ___:    NO GROWTH. 

Blood Culture, Routine (Final ___:    NO GROWTH. 

HEAD  CT - IMPRESSION: 
No acute intracranial abnormality.
 
Brief Hospital Course:
# Thrombocytopenia
# ITP
This thrombocytopenia was felt to be most likely ___ ITP. HIV 
and HCV were negative. HBV serologies were consistent with prior 
vaccination. VZV was negative. He had no symptoms suggestive of 
SLE. He received prednisone 140 mg PO in the ED. Heme/onc was 
consulted and they discussed treatment options with the patient 
and his family. Because he has been so intolerant of steroids, 
he preferred to try intermittent IVIG. Rituximab was also 
discussed as a future possibility. He received 2 doses of IVIG 
(1 gram/kg ideal body weight = 100 grams). Following 2nd dose of 
IVIG, he did developed a significant headache with resolved on 
its own. Head Ct negative. His platelets improved from to 85k at 
the time of discharge. He will be discharged with close follow 
up planned with hematology.

#Tobacco use
He was provided nicotine patches and smoking cessation 
counseling during this hospital stay.
 
Medications on Admission:
Prednisone as per HPI, Ativan was prescribed but he did not 
take.
 
Discharge Medications:
1.  Nicotine Patch 21 mg TD DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Idiopathic thrombocytopenic purpura (ITP)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for low platelets, most likely 
due to ITP (idiopathic thrombocytopenic purpura). You were given 
prednisone 140 mg in the emergency department and admitted to 
the hospital. Hematology was consulted and, after discussion 
with you, the decision was made to discontinue steroids and 
attempt a steroid-sparing regimen for ITP with intermittent 
IVIG. You received 2 infusions of IVIG during this hospital 
stay. Your platelets improved to 85,000 with this. You will 
follow up closely with your outpatient hematologist when you 
leave the hospital to discuss further treatment plans for your 
low platelets.
 
Followup Instructions:
___